US05438065
Chloral hydrate (0.40 g) was added slowly in 40 minutes to a mixture of 1-[N-(6-chloro-3-pyridylmethyl)-N-methylamino]-1-methylamino-2-nitroethylene (0.26 g), triethylamine (0.1 g) and acetonitrile (3 ml). The mixture was stirred at room temperature for 21 hours and under refluxing for 9 hours. The resultant crystals were collected by filtration to give 1,1,1-trichloro-4-[N-(6-chloro-3-pyridylmethyl)-N-methylamino]-4-methylamino-3-nitro-3-buten-2-ol (Compound No. 11) (0.23 g) as a white solid.

reactant | Chloral hydrate | 0.40 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | 1-[N-(6-chloro-3-pyridylmethyl)-N-methylamino]-1-methylamino-2-nitroethylene | 0.26 g | ClC1=CC=C(C=N1)CN(C)C(=C[N+](=O)[O-])NC | C10H13ClN4O2
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1,1,1-trichloro-4-[N-(6-chloro-3-pyridylmethyl)-N-methylamino]-4-methylamino-3-nitro-3-buten-2-ol | ClC(C(C(=C(NC)N(C)CC=1C=NC(=CC1)Cl)[N+](=O)[O-])O)(Cl)Cl | C12H14Cl4N4O3
